US07262185B2
4-amino-2-methoxybenzenethiol (1.0 g) was dissolved in methanol (20 ml), and to this solution was added 3N aqueous solution of sodium hydroxide (6.4 ml) and then, 3-(chloromethyl)pyridine hydrochloride (1.27 g), and the mixture was stirred for 30 minutes. The solvent was removed under reduced pressure, and the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 3-methoxy-4-[(3-pyridinylmethyl)sulfanyl]aniline (1.0 g).

reactant | 4-amino-2-methoxybenzenethiol | 1.0 g | NC1=CC(=C(C=C1)S)OC | C7H9NOS
reactant | sodium hydroxide | 6.4 ml | [OH-].[Na+]
reactant | 3-(chloromethyl)pyridine hydrochloride | 1.27 g | Cl.ClCC=1C=NC=CC1
solvent | methanol | 20 ml | CO | CH4O
product | 3-methoxy-4-[(3-pyridinylmethyl)sulfanyl]aniline | 1.0 g | COC=1C=C(N)C=CC1SCC=1C=NC=CC1 | C13H14N2OS
